US08633313B2
N-(1-(3-Phenyl-1,5-naphthyridin-2-yl)ethyl)-9H-purin-6-amine
1-(3-Phenyl-1,5-naphthyridin-2-yl)ethanamine (46 mg, 0.19 mmol), 4-amino-6-chloropurine (28.5 mg, 1.0 eq) and hunig's base (39 μL, 1.2 eq) in n-BuOH (2 mL) was heated to 130° C. overnight. The mixture was cooled to rt, concentrated, and purified by reverse phase HPLC (MeCN/H2O/0.1% TFA, 10% to 60%) to give a white powder (50 mg) as TFA salt. 1H NMR (400 MHz, CD3OD) δ ppm 9.05 (1H, d, J=4.0 Hz), 8.65 (1H, d, J=8.0 Hz), 8.50-8.47 (2H, m), 8.29 (1H, s), 7.90 (1H, dd, J=8.0, 4.0 Hz), 7.62-7.47 (5H, m), 6.12-6.01 (1H, m), 1.63 (3H, d, J=8.0 Hz); LC-MS (ESI) m/z 368 [M+H]+.

reactant | 1-(3-Phenyl-1,5-naphthyridin-2-yl)ethanamine | 0.19 mmol, 46 mg | C1(=CC=CC=C1)C=1C(=NC2=CC=CN=C2C1)C(C)N | C16H15N3
reactant | 4-amino-6-chloropurine | 28.5 mg, 1.0 eq | NC12N=CN=C(C2=NC=N1)Cl | C5H4ClN5
reactant | hunig's base | 39 μL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
product | N-(1-(3-Phenyl-1,5-naphthyridin-2-yl)ethyl)-9H-purin-6-amine | 50 mg | C1(=CC=CC=C1)C=1C(=NC2=CC=CN=C2C1)C(C)NC1=C2N=CNC2=NC=N1 | C21H17N7
